US07423042B2
d) N-Cyano-N′-(2-{[4-(2,4-difluorophenyl)-8-(2-fluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-2-yl]amino}ethyl)guanidine
To a solution of phenyl N-cyano-N′-(2-{[4-(2,4-difluorophenyl)-8-(2-fluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-2-yl]amino}-ethyl)imidocarbamate in isopropanol (2 mL) was added a 2M solution of ammonia in isopropanol (2 mL). The mixture was irradiated with microwave at about 60° C. for about 20 min. LC/MS showed a mixture containing approximately 25% product and 75% starting material. The mixture was kept in a sealed tube for 6 days. LC/MS showed 100% product. The solvent was evaporated and the residue was purified to give the title compound (20 mg, 60%). LC-MS m/z 479 (M+H)+, 2.84 min (ret time).

reactant | phenyl N-cyano-N′-(2-{[4-(2,4-difluorophenyl)-8-(2-fluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-2-yl]amino}-ethyl)imidocarbamate | C(#N)NC(OC1=CC=CC=C1)=NCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2)F)C2=C(C=C(C=C2)F)F | C29H20F3N7O2
reactant | ammonia | N | H3N
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | N-Cyano-N′-(2-{[4-(2,4-difluorophenyl)-8-(2-fluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-2-yl]amino}ethyl)guanidine | 20 mg, 60% | C(#N)NC(=N)NCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2)F)C2=C(C=C(C=C2)F)F | C23H17F3N8O
